US05914328
66c. 3-((1-BOC-2-(S)-pyrrolidinyl)methoxy)-5trifluoromethylpyridine
A 333 mg (1.20 mmol) sample of 1-BOC-2-(S)-azetidinemethanol, prepared as in Example 7b above, and 230 mg (1.30 mmol) of 3-hydroxy-5-trifluoromethylpyridine, from step 66b above, were reacted with triphenylphosphine and DEAD (1.2 mmol each) in 5 mL of THF according to the procedure of Example 14a, to give 360 mg of the title compound. MS (D)CI/NH3) m/e 347 (M+H)+. 1H so NMR (CDCl3, 300 MHz) δ: 8.50 (s, 1H), 8.48 (s, 1H), 7.46 (s, 1H), 4.28-3.90 (m, 3H), 3.48-3.84 (m, 2H), 2.12-1.87 (m, 4H).

reactant | 1-BOC-2-(S)-azetidinemethanol | C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO | C9H17NO3
reactant | 3-hydroxy-5-trifluoromethylpyridine | 1.30 mmol, 230 mg | OC=1C=NC=C(C1)C(F)(F)F | C6H4F3NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.2 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-((1-BOC-2-(S)-pyrrolidinyl)methoxy)-5trifluoromethylpyridine | 360 mg | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC=1C=NC=C(C1)C(F)(F)F | C16H21F3N2O3
